US07074796B2
1-(4-Bromobutyl)-3,4-dihydroquinolin-2(1H)-one
A suspension of sodium hydride (6.8 g, 60% dispersion in mineral oil) and dimethyl formamide (200 mL) was kept at 20–30° C. followed by the addition of a solution of 3,4-dihydroquinolin-2(1H)-one (25 g) in dimethyl formamide (100 mL). The resulting mixture was stirred at room temperature for 30 min followed by the addition of a solution of 1,4-dibromobutane (184 g) in dimethyl formamide (200 mL) at a temperature of 20–40° C. The reaction mixture was stirred at room temperature for 30 min and evaporated in vacuo. The remaining oil was poured into ice water and extracted with ethyl acetate. The combined organic phases were washed with water and brine, treated with charcoal, dried (MgSO4) and evaporated in vacuo. The remaining oil was purified by flash chromatography (eluent:ethyl acetate/heptane 1:1) giving the title compound as a red oil (36 g).

reactant | sodium hydride | 6.8 g | [H-].[Na+]
reactant | 3,4-dihydroquinolin-2(1H)-one | 25 g | N1C(CCC2=CC=CC=C12)=O | C9H9NO
reactant | 1,4-dibromobutane | 184 g | BrCCCCBr | C4H8Br2
solvent | dimethyl formamide | 100 mL | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 200 mL | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 200 mL | CN(C=O)C | C3H7NO
product | 1-(4-Bromobutyl)-3,4-dihydroquinolin-2(1H)-one | 36 g | BrCCCCN1C(CCC2=CC=CC=C12)=O | C13H16BrNO
